US04428952
3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid (1 g) was reacted with ethyl iodide (0.93 g) and anhydrous K2CO3 (0.83 g) in dimethylformamide (10 ml) under stirring at room temperature for 16 hours. After dilution with ice water the precipitate was filtered and washed with water until neutral: crystallization from chloroform-ethanol gave 0.9 g of 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid, ethyl ester, m.p. 184°-185° C.

reactant | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid | 1 g | CC1=C(C=C2CCN3C2=NC=2C=CC(=CC2C3=O)C(=O)O)C=CC=C1 | C20H16N2O3
reactant | ethyl iodide | 0.93 g | C(C)I | C2H5I
reactant | K2CO3 | 0.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid, ethyl ester | 0.9 g | CC1=C(C=C2CCN3C2=NC=2C=CC(=CC2C3=O)C(=O)OCC)C=CC=C1 | C22H20N2O3
